US07326710B2
(IV-22) N1-phenacyl-N4-(2,4-difluorobenzylsulfonyl)piperazine hydrochloride
A mixture of 2,4-difluorobenzylsulfonylchloride (3.5 mmol), N-phenacyl piperazine dihydrochloride (3 mmol), and K2CO3 (10.5 mmol) in 30 ml of DMF was treated according to the general preparation 2 to give compound (IV-22), 0.81 g (71%), M+ 412.

reactant | 2,4-difluorobenzylsulfonylchloride | 3.5 mmol | FC1=C(CS(=O)(=O)Cl)C=CC(=C1)F | C7H5ClF2O2S
reactant | N-phenacyl piperazine dihydrochloride | 3 mmol | Cl.Cl.C(C(=O)C1=CC=CC=C1)N1CCNCC1
reactant | K2CO3 | 10.5 mmol | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | N1-phenacyl-N4-(2,4-difluorobenzylsulfonyl)piperazine hydrochloride | Cl.C(C(=O)C1=CC=CC=C1)N1CCN(CC1)S(=O)(=O)CC1=C(C=C(C=C1)F)F | InChI=1S/C19H20F2N2O3S.ClH/c20-17-7-6-16(18(21)12-17)14-27(25,26)23-10-8-22(9-11-23)13-19(24)15-4-2-1-3-5-15;/h1-7,12H,8-11,13-14H2;1H
